US04259352
Preparation of ethyl 3-[4-(2-allylcyclohexylamino)phenyl]propionate
A mixture of 5.0 g. of ethyl 4-aminohydrocinnamate, 10.0 g. of 1-methanesulfonyloxy-2-allylcyclohexane (prepared by the method of Example 189), 4.2 g. of anhydrous powdered potassium carbonate and 40 ml. hexamethylphosphoramide is heated to 80 for 17 hours. The mixture is then cooled, diluted with water and extracted with ethyl ether. The ether extracts are washed with water, dried and evaporated. The residue is recrystallized from ethanol yielding the title compound as white crystals.

reactant | ethyl 4-aminohydrocinnamate | NC1=CC=C(CCC(=O)OCC)C=C1 | C11H15NO2
reactant | 1-methanesulfonyloxy-2-allylcyclohexane | CS(=O)(=O)OC1C(CCCC1)CC=C | C10H18O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 3-[4-(2-allylcyclohexylamino)phenyl]propionate | C(C=C)C1C(CCCC1)NC1=CC=C(C=C1)CCC(=O)OCC | C20H29NO2
